US07595327B2
According to the procedure of Example 17, Step 3, the reaction of 278 mg of cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid with 218 mg of di-tert-butyl dicarbonate provided 148.1 mg (55% yield) of cis-1-(tert-butoxycarbonyl)-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid. MS: 542.1 (M+H)+

reactant | cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid | 278 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CNC1)C(=O)O | C22H23N3O5S
reactant | di-tert-butyl dicarbonate | 218 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | cis-1-(tert-butoxycarbonyl)-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid | 148.1 mg, 55% yield | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C27H31N3O7S
